US04283414
α-Fluoro-3-phenoxybenzyl 3-(2-chloro-2-trifluoromethylvinyl)-2,2-dimethylcyclopropanecarboxylate (4)
This compound was prepared from 3-(2-chloro-2-trifluoromethylvinyl)-2,2-dimethylcyclopropanecarboxylic acid and α-fluoro-3-phenoxybenzyl bromide following the procedure described in Example 2 Method B. The product, a colourless oil, was characterised by pmr spectroscopy. Chemical shift δ ppm (solvent CDCl3): 1.26(6H, m, C(CH3)2); 1.72-2.44(2H, m, cyclopropyl protons); 5.80 and 6.18(1H, 2xd, vinyl proton); 7.20(1H, d, J=56Hz, CHF) and about 7.13(9H, m, aromatic protons).

reactant | 3-(2-chloro-2-trifluoromethylvinyl)-2,2-dimethylcyclopropanecarboxylic acid | ClC(=CC1C(C1C(=O)O)(C)C)C(F)(F)F | C9H10ClF3O2
reactant | α-fluoro-3-phenoxybenzyl bromide | FC(C1=CC(=CC=C1)OC1=CC=CC=C1)Br | C13H10BrFO
product | α-Fluoro-3-phenoxybenzyl 3-(2-chloro-2-trifluoromethylvinyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=CC1C(C1C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)F)(C)C)C(F)(F)F | C22H19ClF4O3
